US06255307B1
7. 2,6-Diamino-3-bromopyrazine
A suspension of 2-chloro-3-bromo-6-aminopyrazine (15 g, 0.072 mole) in absolute ethanol (150 ml) and 0.880 ammonia (375 ml) was stirred and heated in an autoclave at 160° C. and 20 atm. for 16 hrs. The cooled mixture was evaporated in vacuo and extracted with hot methanol (3×100 ml). The combined methanol extracts were evaporated in vacuo. The residue was dissolved in hot chloroform, dried over anhydrous magnesium sulphate, filtered and the filtrate evaporated in vacuo. The residue was triturated with 40-60° C. petroleum ether, filtered, and dried in vacuo. Yield 5.51 g (40%), M.p. 176-178° C.

reactant | 2-chloro-3-bromo-6-aminopyrazine | 0.072 mole, 15 g | ClC1=NC(=CN=C1Br)N | C4H3BrClN3
reactant | ammonia | 375 ml | N | H3N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2,6-Diamino-3-bromopyrazine | NC1=NC(=CN=C1Br)N | C4H5BrN4
